US06465472B1
6,7-Methylenedioxy-2-(piperazin-1-yl)methyl-4-(3,4-methylenedioxyphenyl)quinazoline
A suspension of 2-chloromethyl-6,7-methylenedioxy-4-(3,4-methylenedioxy-phenyl)quinazoline (96 mg, 0.3 mmol) in EtOH (9 mL) was treated with piperazine (860 mg, 10 mmol). The mixture was stirred at rt for 15 h, then it was poured into ice cold dilute NaHCO3 solution. On standing at rt for 72 h the title compound was crystallized out as colorless plates. It was collected by, filtration, washed with water, and dried to give 74 mg of solid; mp 73-76° C. 1H NMR (CDCl3) 7.37 (d, J=8.4, 1H), 7.16-7.24 (m, 3H), 6.97 (d, J=8.4, 1H), 6.14 (s, 2H), 6.07 (s, 2H), 3.95 (s, 2H), 2.97 (bs, 4H), 2.65 (bs, 41H).

reactant | 2-chloromethyl-6,7-methylenedioxy-4-(3,4-methylenedioxy-phenyl)quinazoline | 0.3 mmol, 96 mg | ClCC1=NC2=CC3=C(C=C2C(=N1)C1=CC2=C(C=C1)OCO2)OCO3 | C17H11ClN2O4
reactant | piperazine | 10 mmol, 860 mg | N1CCNCC1 | C4H10N2
solvent | EtOH | 9 mL | CCO | C2H6O
product | 6,7-Methylenedioxy-2-(piperazin-1-yl)methyl-4-(3,4-methylenedioxyphenyl)quinazoline | 74 mg | C1OC=2C=C3C(=NC(=NC3=CC2O1)CN1CCNCC1)C1=CC2=C(C=C1)OCO2 | C21H20N4O4
